### PR TITLE
[Merged by Bors] - chore: split out NatCast/IntCast Complex instances

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
This makes it possible to simplify some proofs

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Basic.lean [hunk 1]
```diff
@@ -330,22 +330,23 @@ instance addCommGroup : AddCommGroup ℂ :=
...
-      ext
-      · simp [AddGroupWithOne.intCast_negSucc]
-        show -(1 : ℝ) + (-n) = -(↑(n + 1))
-        simp [Nat.cast_add, add_comm]
-      · simp [AddGroupWithOne.intCast_negSucc]
-        show im ⟨n, 0⟩ = 0
-        rfl
+    natCast_zero := by ext <;> simp
+    natCast_succ _ := by ext <;> simp
+    intCast n := ⟨n, 0⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]: I'd be inclined to split this out too for good measure

Comment (Ruben-VandeVelde) [reply Mathlib/Data/Complex/Basic.lean]: Done

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -330,22 +330,30 @@ instance addCommGroup : AddCommGroup ℂ :=
...
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]:
```suggestion
```

File: Mathlib/Data/Complex/Basic.lean [hunk 3]
```diff
@@ -330,22 +330,30 @@ instance addCommGroup : AddCommGroup ℂ :=
...
+
+@[simp]
+lemma re_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).re = ofNat(n) := rfl
+@[simp] lemma im_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).im = 0 := rfl
+@[simp, norm_cast] lemma natCast_re (n : ℕ) : (n : ℂ).re = n := rfl
+@[simp, norm_cast] lemma natCast_im (n : ℕ) : (n : ℂ).im = 0 := rfl
+
+
+instance instIntCast : IntCast ℂ where
+  intCast n := ⟨n, 0⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]:
```suggestion
  intCast n := ofReal n
```

File: Mathlib/Data/Complex/Basic.lean [hunk 4]
```diff
@@ -330,22 +330,30 @@ instance addCommGroup : AddCommGroup ℂ :=
     neg_add_cancel := by intros; ext <;> simp }
 
 
+instance instNatCast : NatCast ℂ where
+  natCast n := ⟨n, 0⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]:
```suggestion
  natCast n := ofReal n
```

File: Mathlib/Data/Complex/Basic.lean [hunk 5]
```diff
@@ -407,13 +414,6 @@ instance instRatCast : RatCast ℂ where ratCast q := ofReal q
...
-@[simp]
-lemma re_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).re = ofNat(n) := rfl
-@[simp] lemma im_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).im = 0 := rfl
-@[simp, norm_cast] lemma natCast_re (n : ℕ) : (n : ℂ).re = n := rfl
-@[simp, norm_cast] lemma natCast_im (n : ℕ) : (n : ℂ).im = 0 := rfl
-@[simp, norm_cast] lemma intCast_re (n : ℤ) : (n : ℂ).re = n := rfl
-@[simp, norm_cast] lemma intCast_im (n : ℤ) : (n : ℂ).im = 0 := rfl
 @[simp, norm_cast] lemma re_nnratCast (q : ℚ≥0) : (q : ℂ).re = q := rfl
 @[simp, norm_cast] lemma im_nnratCast (q : ℚ≥0) : (q : ℂ).im = 0 := rfl
 @[simp, norm_cast] lemma ratCast_re (q : ℚ) : (q : ℂ).re = q := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]: I think perhaps it makes sense to move this entire "Cast lemmas" section (up to line 421) above the `addGroupWithOne` instance?

Comment (Ruben-VandeVelde) [reply Mathlib/Data/Complex/Basic.lean]: Done, but I hope that's the final scope creep on this PR :)

File: Mathlib/Data/Complex/Basic.lean [hunk 6]
```diff
@@ -330,22 +330,44 @@ instance addCommGroup : AddCommGroup ℂ :=
...
+@[simp, norm_cast] lemma ofReal_ofNat (n : ℕ) [n.AtLeastTwo] : ofReal ofNat(n) = ofNat(n) := rfl
+@[simp, norm_cast] lemma ofReal_natCast (n : ℕ) : ofReal n = n := rfl
+@[simp, norm_cast] lemma ofReal_intCast (n : ℤ) : ofReal n = n := rfl
+@[simp, norm_cast] lemma ofReal_nnratCast (q : ℚ≥0) : ofReal q = q := rfl
+@[simp, norm_cast] lemma ofReal_ratCast (q : ℚ) : ofReal q = q := rfl
+
+@[simp, norm_cast] lemma re_nnratCast (q : ℚ≥0) : (q : ℂ).re = q := rfl
+@[simp, norm_cast] lemma im_nnratCast (q : ℚ≥0) : (q : ℂ).im = 0 := rfl
+@[simp, norm_cast] lemma ratCast_re (q : ℚ) : (q : ℂ).re = q := rfl
+@[simp, norm_cast] lemma ratCast_im (q : ℚ) : (q : ℂ).im = 0 := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]: may as well keep the prior formatting:
```suggestion
instance instNatCast : NatCast ℂ where natCast n := ofReal n
instance instIntCast : IntCast ℂ where intCast n := ofReal n
instance instNNRatCast : NNRatCast ℂ where nnratCast q := ofReal q
instance instRatCast : RatCast ℂ where ratCast q := ofReal q

@[simp, norm_cast] lemma ofReal_ofNat (n : ℕ) [n.AtLeastTwo] : ofReal ofNat(n) = ofNat(n) := rfl
@[simp, norm_cast] lemma ofReal_natCast (n : ℕ) : ofReal n = n := rfl
@[simp, norm_cast] lemma ofReal_intCast (n : ℤ) : ofReal n = n := rfl
@[simp, norm_cast] lemma ofReal_nnratCast (q : ℚ≥0) : ofReal q = q := rfl
@[simp, norm_cast] lemma ofReal_ratCast (q : ℚ) : ofReal q = q := rfl

@[simp] lemma re_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).re = ofNat(n) := rfl
@[simp] lemma im_ofNat (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : ℂ).im = 0 := rfl
@[simp, norm_cast] lemma natCast_re (n : ℕ) : (n : ℂ).re = n := rfl
@[simp, norm_cast] lemma natCast_im (n : ℕ) : (n : ℂ).im = 0 := rfl
@[simp, norm_cast] lemma intCast_re (n : ℤ) : (n : ℂ).re = n := rfl
@[simp, norm_cast] lemma intCast_im (n : ℤ) : (n : ℂ).im = 0 := rfl
@[simp, norm_cast] lemma re_nnratCast (q : ℚ≥0) : (q : ℂ).re = q := rfl
@[simp, norm_cast] lemma im_nnratCast (q : ℚ≥0) : (q : ℂ).im = 0 := rfl
@[simp, norm_cast] lemma ratCast_re (q : ℚ) : (q : ℂ).re = q := rfl
@[simp, norm_cast] lemma ratCast_im (q : ℚ) : (q : ℂ).im = 0 := rfl
```

File: Mathlib/Data/Complex/Basic.lean [hunk 7]
```diff
@@ -398,27 +411,6 @@ theorem coe_imAddGroupHom : (imAddGroupHom : ℂ → ℝ) = im :=
 
 /-! ### Cast lemmas -/
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean]: This header could move too, the stuff below is no longer casts.

**Comment by Ruben-VandeVelde** [comment]
Please feel free to push any further changes directly

**Comment by adomani** [comment]
Thanks!

bors merge
